US05399580
(1R,2S,3R,5R)-5-(4,5-Dichloro-2-nitroanilino)-3-(hydroxymethyl)-1,2-cyclopentanediol (1.30 g, 3.86 mmol) was stirred in pyridine (10 mL)-acetic anhydride (2.2 mL) at ambient temperature for 2 days. Volatiles were evaporated in vacuo and the residue partitioned between chloroform and saturated aqueous sodium bicarbonate. The chloroform layer was dried (sodium sulfate) and concentrated to an oil which was chromatographed on silica gel. Elution with 2% methanol-chloroform gave (1R,2S,3R,5R)-3-(acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate as yellow needles (1.60 g, 89%), after crystallization from ethyl acetate-hexanes, m.p. 125°-130° C.; 1H-NMR(DMSO-d6) and mass spectrum (CI) consistent with structure; [α]20589 -130.5°, [α]20578 -140°, [α]20546 -178° (c=0.275, methanol).

reactant | (1R,2S,3R,5R)-5-(4,5-Dichloro-2-nitroanilino)-3-(hydroxymethyl)-1,2-cyclopentanediol | 3.86 mmol, 1.30 g | ClC1=CC(=C(N[C@@H]2C[C@@H]([C@@H]([C@@H]2O)O)CO)C=C1Cl)[N+](=O)[O-] | C12H14Cl2N2O5
reactant | acetic anhydride | 2.2 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | (1R,2S,3R,5R)-3-(acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate | 1.60 g, 89% | C(C)(=O)O[C@H]1[C@H]([C@H](C[C@H]1NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])COC(C)=O)OC(C)=O | C18H20Cl2N2O8
